US04022779
10 gm. of 7-methyl-5-(4-methyl-1-piperazinyl)pyrido[3,4-b]pyrazine-8-carboxylic acid ethyl ester are hydrolyzed with dilute sodium hydroxide solution to obtain 7-methyl-5-(4-methyl-1-piperazinyl)pyrido[3,4-b] pyrazine-8-carboxylic acid.

reactant | 7-methyl-5-(4-methyl-1-piperazinyl)pyrido[3,4-b]pyrazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(C2=NC=CN=C21)N2CCN(CC2)C)C | C16H21N5O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-methyl-5-(4-methyl-1-piperazinyl)pyrido[3,4-b] pyrazine-8-carboxylic acid | CC1=C(C=2C(=NC=CN2)C(=N1)N1CCN(CC1)C)C(=O)O | C14H17N5O2
